US08309721B2
Synthesis of 2-(2-acetylaminoethylamino)-4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]benzamide
The process is carried out as in stage 3 of Example 3, but using 150 mg of 2-fluoro-4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]benzonitrile, obtained according to stage 2 of Example 3, 148 mg of potassium carbonate and 810 mg of N-acetylethylenediamine in 1.2 ml of dimethyl sulphoxide. 0.4 ml of a 1M aqueous solution of sodium hydroxide, 0.4 ml of a 30% aqueous solution of hydrogen peroxide and 2 ml of ethanol are then added to the reaction medium. After treatment and purification as in stage 3 of Example 3, 72 mg of 2-(2-acetylaminoethylamino)-4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]benzamide are thus obtained in the form of a white solid, the characteristics of which are the following:

reactant | 2-fluoro-4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]benzonitrile | 150 mg | FC1=C(C#N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C1=NC2=C(N1)C=C(C=C2)F | C26H14F2N4
reactant | potassium carbonate | 148 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-acetylethylenediamine | 810 mg | C(C)(=O)NCCN | C4H10N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | dimethyl sulphoxide | 1.2 ml | CS(=O)C | C2H6OS
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-(2-acetylaminoethylamino)-4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]benzamide | C(C)(=O)NCCNC1=C(C(=O)N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C1=NC2=C(N1)C=C(C=C2)F | C30H25FN6O2
